US09328099B2
5-Bromo-2-chloropyridine (206 mg, 1.07 mmol), 2,2,2-trifluoroethyl 4-(3-amino-4-carbamoyl-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate (400 mg, 1.07 mmol), Pd2(dba)3 (98 mg, 0.11 mmol), 2-di-t-butylphosphino-3,4,5,6-teramethyl-2′,4′,6′-triisopropylbiphenyl (154 mg, 0.321 mmol), and potassium phosphate (454 mg, 2.14 mmol) were combined in a 40 mL vial and dissolved in 1,4-dioxane (5.3 mL). The vial was capped, flushed with argon, and stirred at 90° C. for 2 hours. The mixture was cooled to ambient temperature and diluted with ethyl acetate. The organic layer was then washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 0-5% MeOH/DCM) to afford 2,2,2-trifluoroethyl 4-(4-carbamoyl-3-((6-chloropyridin-3-yl)amino)-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate.

reactant | 5-Bromo-2-chloropyridine | 1.07 mmol, 206 mg | BrC=1C=CC(=NC1)Cl | C5H3BrClN
reactant | 2,2,2-trifluoroethyl 4-(3-amino-4-carbamoyl-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate | 1.07 mmol, 400 mg | NC1=NN(C=C1C(N)=O)C1(CCN(CC1)C(=O)OCC(F)(F)F)CC#N | C14H17F3N6O3
reactant | 2-di-t-butylphosphino-3,4,5,6-teramethyl-2′,4′,6′-triisopropylbiphenyl | 0.321 mmol, 154 mg | C(C)(C)(C)P(C1=C(C(=C(C(=C1C)C)C)C)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C33H53P
reactant | potassium phosphate | 2.14 mmol, 454 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 5.3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.11 mmol, 98 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2,2,2-trifluoroethyl 4-(4-carbamoyl-3-((6-chloropyridin-3-yl)amino)-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate | C(N)(=O)C=1C(=NN(C1)C1(CCN(CC1)C(=O)OCC(F)(F)F)CC#N)NC=1C=NC(=CC1)Cl | C19H19ClF3N7O3
